### PR TITLE
WIP: towards bicategorical scenario for actions

### PR DESCRIPTION
**Pull request by rmatthes**
tries to build on the code that was there for technical purposes of proof management only
the code is unduly scattered for the moment

the bicategorical scenario will be compared with an elementary definition of actegories

### CODE REVIEW

File: UniMath/Bicategories/MonoidalCategories/BicatOfActionsInBicat.v [hunk 1]
```diff
@@ -0,0 +1,214 @@
...
+    - exact Hyp.
+  Qed.
+
+  Definition disp_actionbicat_disp_ob_mor : disp_cat_ob_mor C.
+  Proof.
+    use tpair.
+    - intro a0.
+      exact (∑ FA: functor V (category_from_bicat_and_ob a0),
+                fmonoidal Mon_V (monoidal_from_bicat_and_ob a0) FA).
+    - intros a0 a0' [FA FAm] [FA' FA'm] G.
```
Comment (nmvdw) [inline UniMath/Bicategories/MonoidalCategories/BicatOfActionsInBicat.v:100]: Does this lead to a `match` being generated in the proof term?

File: UniMath/Bicategories/MonoidalCategories/BicatOfActionsInBicat.v [hunk 2]
```diff
@@ -0,0 +1,214 @@
...
+
+Local Open Scope cat.
+Section FixMoncatAndBicat.
+
+  Context {V : category}.
+  Context (Mon_V : monoidal V).
+
+  Notation "X ⊗ Y" := (X ⊗_{ Mon_V } Y).
+
+  Context (C : bicat).
```
Comment (nmvdw) [inline UniMath/Bicategories/MonoidalCategories/BicatOfActionsInBicat.v:65]: Currently, I tend to use `B` for bicategories and `C` for categories. In some older files, `C` is used for bicategories

File: UniMath/Bicategories/MonoidalCategories/BicatOfActionsInBicat.v [hunk 3]
```diff
@@ -0,0 +1,214 @@
...
+          unfold param_distr_bicat_pentagon_eq_body, param_distr_bicat_pentagon_eq_body_RHS.
+          cbn.
+          etrans.
+          { rewrite vassocl. apply maponpaths. rewrite vassocr. apply maponpaths_2.
+            apply vcomp_lunitor. }
+          etrans.
+          { repeat rewrite vassocr. apply idpath. }
+          apply pathsinv0, (rhs_right_inv_cell _ _ _ (is_invertible_2cell_runitor _)).
+          etrans.
+          { repeat rewrite vassocl. apply idpath. }
```
Comment (nmvdw) [inline UniMath/Bicategories/MonoidalCategories/BicatOfActionsInBicat.v:148]:
```suggestion
          { rewrite !vassocl. apply idpath. }
```
This is a bit nicer, I think

Comment (rmatthes) [reply UniMath/Bicategories/MonoidalCategories/BicatOfActionsInBicat.v:148]: Thank you for the hint, but I have already remodeled my proofs. Will try to learn from it.

File: UniMath/Bicategories/MonoidalCategories/BicatOfActionsInBicat.v (hunk 2 above)
Comment (rmatthes) [reply UniMath/Bicategories/MonoidalCategories/BicatOfActionsInBicat.v:65]: I'll change.

File: UniMath/Bicategories/MonoidalCategories/BicatOfActionsInBicat.v (hunk 1 above)
Comment (rmatthes) [reply UniMath/Bicategories/MonoidalCategories/BicatOfActionsInBicat.v:100]: No, just projections - this can be seen in ProofGeneral with the option "Show Proof (Diffs)".

File: UniMath/Bicategories/MonoidalCategories/BicatOfActionsInBicat.v [hunk 4]
```diff
@@ -0,0 +1,526 @@
...
+
+  Definition bidisp_actionbicat_disp_bicat : disp_bicat B.
+  Proof.
+    refine (bidisp_actionbicat_disp_prebicat,, _).
+    intros a a' f1 f2 η M M' FM1 FM2.
+    apply isasetaprop.
+    apply isaprop_bidisp_actionbicat_disp_2cell_struct.
+  Defined.
+
+  Lemma actionbicat_disp_2cells_isaprop : disp_2cells_isaprop bidisp_actionbicat_disp_bicat.
```
Comment (nmvdw) [inline UniMath/Bicategories/MonoidalCategories/BicatOfActionsInBicat.v:515]: Are all displayed 2-cells invertible as well? I believe it might be. These two properties together are very nice, because you get fiber categories.

Comment (rmatthes) [reply UniMath/Bicategories/MonoidalCategories/BicatOfActionsInBicat.v:515]: Good suggestion! Must be true since it is already true for the bicategory of monoidal categories that it is a displayed local groupoid.

Comment (rmatthes) [reply UniMath/Bicategories/MonoidalCategories/BicatOfActionsInBicat.v:513]: Thank you @nmvdw , this is now committed.

File: UniMath/Bicategories/MonoidalCategories/BicatOfActionsInBicat.v [hunk 5]
```diff
@@ -521,6 +519,26 @@ Section FixMoncatAndBicat.
...
-
+  Lemma actionbicat_disp_locally_groupoid : disp_locally_groupoid bidisp_actionbicat_disp_bicat.
+  Proof.
+    red. intros a a' f1 f2 ηinvertible [FA FAm] [FA' FA'm] [δ1 [tria1 penta1]] [δ2 [tria2 penta2]] is2cell.
+    use tpair.
+    - red. cbn. red. intro v. red.
+      transparent assert (invertible1 : (invertible_2cell (FA v · f2) (FA v · f1))).
+      { use make_invertible_2cell.
+        - exact (FA v ◃ ηinvertible ^-1).
+        - apply is_invertible_2cell_lwhisker.
```
Comment (nmvdw) [inline UniMath/Bicategories/MonoidalCategories/BicatOfActionsInBicat.v:530]: `is_iso` is a convenient tactic in these cases. I think it is able to prove this goal itself.

`is_iso` basically uses canonical steps to check whether a cell is invertible

Comment (rmatthes) [reply UniMath/Bicategories/MonoidalCategories/BicatOfActionsInBicat.v:530]: Thanks - unfortunately, my old machine now compiles your PR #1548, so I'll have to look into the power of that tactic later.

File: UniMath/CategoryTheory/Monoidal/ConstructionOfActegories.v [hunk 6]
```diff
@@ -47,8 +48,76 @@ Proof.
...
+Proof.
+  split; [| split; [| split]]. (* splits into the 4 main goals *)
+  - repeat split.
+    + intros x y f. cbn. unfold lifted_action_unitor_data.
+
+      (* TODO: a lot of work (approx. 200loc) was needed in [UniMath.Bicategories.MonoidalCategories.ConstructionOfActions] *)
+
+Admitted.
+
+Definition lifted_actegory: actegory Mon_W C := lifted_actegory_data,,lifted_actegory_laws.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/ConstructionOfActegories.v:121]: So, we have a displayed bicategory of actegories over monoidal categories (1-cells are strong monoidal functors). This shows that we can lift actegories over `W` to actegories over `V` if we have a strong monoidal functor `V -> W`.

Did you think about whether this forms some kind of fibration?

Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/ConstructionOfActegories.v:121]: Thank you, I put your question into my global task list.

File: UniMath/Bicategories/Monads/Examples/MonadsInStructuredCategories.v [hunk 7]
```diff
@@ -179,9 +179,9 @@ Definition make_mnd_actegory
            (C : category)
            (M : Monad C)
            (Act : actegory Mon_V C)
-           (Ml : lineator Mon_V Act Act M)
-           (ηlinear : is_linear_nat_trans (identity_lineator Mon_V Act) Ml (η M))
-           (μlinear : is_linear_nat_trans (comp_lineator Mon_V Ml Ml) Ml (μ M))
+           (Ml : lineator_lax Mon_V Act Act M)
+           (ηlinear : is_linear_nat_trans (identity_lineator_lax Mon_V Act) Ml (η M))
+           (μlinear : is_linear_nat_trans (comp_lineator_lax Mon_V Ml Ml) Ml (μ M))
```
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/Bicategories/Monads/Examples/MonadsInStructuredCategories.v:184]: I hope that my [subsequent commit](https://github.com/UniMath/UniMath/pull/1549/commits/f9df6b4852e5e3c5315421f6968215d994c6983f) announces my intention well.

**Comment by rmatthes** [comment]
This PR was a draft since there were admitted proofs in it. A final hole remained in `UniMath/Bicategories/MonoidalCategories/BicatOfActionsInBicat.v`. It is now replaced by a variable `ax2` of type `actionbicat_ax2`. This is not elegant but presents no logical risks.

**Comment by benediktahrens** [comment]
Fixed the minimal merge conflicts.
